US07456289B2
7-Methoxyimidazo[1,2-a]pyridine (621 mg, 4.2 mmol) was mixed with POCl3 (16.8 mmol) in dimethylformamide (4 mL). The reaction mixture was heated at 90° C. for 24 h and then cooled to room temperature. After the solvent was removed in vacuo, an oil was obtained. The oil was purified on a silica gel column eluting with EtOAc/Hexane (1:1) to afford 7-methoxyimidazo[1,2-a]pyridine-3-carbaldehyde (508 mg, 69%).

reactant | 7-Methoxyimidazo[1,2-a]pyridine | 4.2 mmol, 621 mg | COC1=CC=2N(C=C1)C=CN2 | C8H8N2O
reactant | POCl3 | 16.8 mmol | O=P(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 7-methoxyimidazo[1,2-a]pyridine-3-carbaldehyde | 508 mg, 69% | COC1=CC=2N(C=C1)C(=CN2)C=O | C9H8N2O2
